2114-11-03 10:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Mitral Valve
   thrombus
   24 Hour Events:
   Patient had increased O2 requirement overnight, worsening rales on
   exam. Patient had started BiPap, then was Diuresed.  O2 requirement
   improved.  R IJ placed as PIVs difficult to place.
   Allergies:
   Lasix (Oral) (Furosemide)
   Hives;
   Codeine
   Rash;
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Voltaren (Oral) (Diclofenac Sodium)
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2114-11-3**] 03:31 AM
   Furosemide (Lasix) - [**2114-11-3**] 05:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-3**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 110 (67 - 112) bpm
   BP: 105/62(73) {85/38(59) - 119/72(79)} mmHg
   RR: 24 (21 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    141 mL
                                                                    338 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     21 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                  1,080 mL
   Urine:
                                                                    510 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -369 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,046 (1,046 - 1,046) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 6.6 L/min
   Physical Examination
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD
   CARDIAC: RRR, with loud S2, crescendo-decrescendo murmur at LUSB
   LUNGS: Diffuse rales in posterior lung fields
   ABDOMEN: Soft, RLQ TTP.  Voluntary guarding.  No rebound.
   EXTREMITIES: No c/c/e. No femoral bruits.
   Neuro:  CN II-XII intact, with following exceptions. [**2-21**] Plantar
   flexion of L and R LE.  [**3-24**] handgrip on R, [**1-23**] on L.  Absent L sided
   startle reflex, L lid lag and facial droop.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   355 K/uL
   9.0 g/dL
   155 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   23 mg/dL
   113 mEq/L
   144 mEq/L
   25.9 %
   25.0 K/uL
        [image002.jpg]
                            [**2114-11-2**]  05:00 PM
                            [**2114-11-2**]  09:28 PM
                            [**2114-11-3**]  03:10 AM
   WBC
   20.8
   25.0
   Hct
   29.3
   25.9
   Plt
   321
   355
   Cr
   1.0
   1.0
   TropT
   0.05
   Glucose
   130
   155
   Other labs: PT / PTT / INR:16.8/67.9/1.5, CK / CKMB /
   Troponin-T:58//0.05, ALT / AST:33/62, Alk Phos / T Bili:99/0.4, Amylase
   / Lipase:49/53, Differential-Neuts:86.5 %, Lymph:7.7 %, Mono:4.6 %,
   Eos:0.9 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:462 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN 66 y/o F s/p CVA with hemorrhagic evolution ([**9-26**])
   with AV and MV valves transferred from OSH with MV thrombosis and GI
   bleed
   .
   # Acute Congestive Heart Failure:  Secondary to Mitral valve thrombus
   and atrial fibrillation.  Patient has high gradient between LA and LV,
   also not filling well secondary to functional stenosis secondary to
   thrombus.
   -          Start low dose Metoprolol IV for HR control to help forward
   flow.
   -          Lasix prn
   Prosthetic Mitral Valve Thrombus:  Echocardiogram consistent with
   thrombus on prosthetic MV valve and fluroscopy shows one leaflet that
   is fixed.  Patient has TTE during admission at [**Hospital1 1817**] three weeks ago
   that was negative for valvular thrombus.  TTE shows gradient pressures
   of Mitral 28/(mean)18 and Aortic 45/(mean)23.  Given the patient had
   recently had a hemorrhagic stroke and recent GI bleed, the management
   will be difficult.  Patient had resumed coumadin on transfer to
   rehabilitation to prevent further clots.  Need to have dialogue with
   surgery if she will be candidate for surgery in the future.
   - Will continue Heparin gtt
   - TEE today
   # GI bleed:  Unclear source, likely lower GI.  HCT dropped from 29 to
   25 this AM and was subsequently transfused
   - GI recs for endoscopy
   - Will transfuse as needed
   - Trend HCT
   # Atrial Fibrillation:  Poorly rate controlled.  Dig level 1.1, likely
   toxic level in this patient in light of her EKG changes.
   - Will start BB
   - Heparin gtt for further thrombus progression
   # CORONARIES:  h/o CAD documented in OSH records, however patient had
   cath in [**2109**] that showed normal coronaries. Pt had STD on EKG possibly
   in setting of GI Bleed/demand or related to digoxin toxicity.
   .
   # PUMP:  Previous TTE at [**Hospital1 1817**] 3 wks ago showed EF of 50% with no
   thrombus, with presence of dilated left atrium.
   - TEE today
   .
   # RLL Pneumonia:  Possible cause of her elevated WBC of 25 this AM.
   Lactate 1.3.  WBC at OSH was elevated.  Afebrile.  Not apparent that
   BCx obtained at OSH.  In context of thrombus, differential includes
   infected thrombus for leukocytosis.
   - BCx and UCx pending
   - Continue Vanco and Meropenem
   - Check CDiff, start IV Flagyl
   .
   # HTN:  BP 108/43.  SBPs on admission in 80s.
   - Start BB.
   .
   # Hypothyroidism:  Continue home synthroid.
   .
   # s/p hemorrhagic stroke:  Patient with neurological deficits on exam.
   Patient at risk for further embolic event with thrombus.
   .
   FEN: Low salt, thickened liquids
   ACCESS: 18 gauge PIV and R IJ
   PROPHYLAXIS:
   -DVT ppx with Hep gtt, IV PPI
   CODE: Full Code.  Will need to be readdressed with family.
   DISPO: CCU for now
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2114-11-3**] 04:37 AM
   Multi Lumen - [**2114-11-3**] 06:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2114-11-04 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2114-11-3**] 12:15 PM
 NON-INVASIVE VENTILATION - START [**2114-11-3**] 06:27 PM
 EKG - At [**2114-11-3**] 08:00 PM
 FEVER - 101.6
F - [**2114-11-3**] 10:00 PM
   TEE showed thrombus increasing in size.  Family meeting: plan not to
   escalate care.  Would make CMO if worsening.  GI recommended CT scan
   when more stable and following lactate.  Tachycardia responded well to
   5 mg metoprolol bolus in AM and PM.  Hypoxic -> ABG, CXR, CPAP o/n.
   Fevers through vanc/[**Last Name (un) 430**].
   Tele: HR improved with metoprolol.  Desats at 11 PM.  Prior to CPAP.
   Allergies:
   Lasix (Oral) (Furosemide)
   Hives;
   Codeine
   Rash;
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Voltaren (Oral) (Diclofenac Sodium)
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2114-11-4**] 12:00 AM
   Metronidazole - [**2114-11-4**] 01:59 AM
   Meropenem - [**2114-11-4**] 03:00 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2114-11-3**] 10:00 AM
   Fentanyl - [**2114-11-3**] 12:15 PM
   Midazolam (Versed) - [**2114-11-3**] 12:16 PM
   Metoprolol - [**2114-11-3**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-4**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.9
C (98.5
   HR: 86 (84 - 112) bpm
   BP: 97/47(60) {77/36(47) - 118/72(82)} mmHg
   RR: 24 (16 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 83.9 kg (admission): 85.6 kg
    CVP: -4 (-4 - 326)mmHg
   Total In:
                                                                  1,439 mL
                                                                    475 mL
   PO:
   TF:
   IVF:
                                                                  1,064 mL
                                                                    475 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,765 mL
                                                                    560 mL
   Urine:
                                                                  2,765 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,326 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 849 (578 - 1,363) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.44/34/69//0
   Ve: 4.4 L/min
   PaO2 / FiO2: 138
   Physical Examination
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD
   CARDIAC: RRR, with loud S2, crescendo-decrescendo murmur at LUSB
   LUNGS: Diffuse rales in posterior lung fields, obscured by BiPAP
   ABDOMEN: Soft, RLQ TTP.  Voluntary guarding.  No rebound.
   EXTREMITIES: No c/c/e. No femoral bruits.
   Neuro:  Moves all 4 with commands.  [**1-23**] handgrip on R, 0/5 on L.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
                                     144
                               [image002.gif]
                                     111
                               [image002.gif]
                                     22
   [image004.gif]
   133
                                                                   AGap=12
   [image005.gif]
   3.5
                               [image002.gif]
                                     25
                               [image002.gif]
                                     1.2
   [image007.gif]
   Mg: 2.1
   Source: Line-central
   93
                                                                      21.3
                                                            [image007.gif]
                                     8.9
   [image004.gif]
   275
                 [image008.gif]
   [image004.gif]
                                    26.7
   [image007.gif]
   Source: [**Name (NI) 6416**]
   PT: 15.8
   PTT: 65.8
   INR: 1.4
                            [**2114-11-2**]  05:00 PM
                            [**2114-11-2**]  09:28 PM
                            [**2114-11-3**]  03:10 AM
                            [**2114-11-3**]  03:22 PM
                            [**2114-11-3**]  06:17 PM
   WBC
   20.8
   25.0
   Post transfusion
   Hct
   29.3
   25.9
   32
   Plt
   321
   355
   Cr
   1.0
   1.0
   TropT
   0.05
   TCO2
   24
   Glucose
   130
   155
   Other labs: PT / PTT / INR:16.1/58.9/1.4, CK / CKMB /
   Troponin-T:58//0.05, ALT / AST:33/62, Alk Phos / T Bili:99/0.4, Amylase
   / Lipase:49/53, Differential-Neuts:86.5 %, Lymph:7.7 %, Mono:4.6 %,
   Eos:0.9 %, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:462 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   The left atrium is dilated. Mild spontaneous echo contrast is seen in
   the body of the left atrium. Moderate to severe spontaneous echo
   contrast is present in the left atrial appendage. The left atrial
   appendage emptying velocity is depressed (<0.2m/s). A probable thrombus
   is seen in the tip of the left atrial appendage. No atrial septal
   defect is seen by 2D or color Doppler. There are simple atheroma in the
   ascending aorta. There are simple atheroma in the aortic arch. There
   are simple atheroma in the descending thoracic aorta up to 35cm from
   the incisor. The aortic valve leaflets (3) are moderately thickened.
   There is severe aortic valve stenosis (area 0.6cm2 by planimetry).
   Trace aortic regurgitation is seen. [Due to acoustic shadowing, the
   severity of aortic regurgitation may be significantly UNDERestimated.]
   A mechanical mitral valve prosthesis is present. There is extensive
   thrombus around the ring of the prosthesis that measures at least 3.4cm
   by 1.1cm by dimension. There is a highly mobile component of the
   thrombus that measure 1.9cm x 0.5cm that prolapses through the mitral
   valve orifice. The anterior/septal mitral valve leaflet is completely
   immobile. The posterior/lateral leaflet moves well. The gradients
   across the mitral valve is suggestive of severe valvular mitral
   stenosis. A tricuspid valve annuloplasty ring is present with trace
   tricuspid regurgitation. There is no pericardial effusion.
   Impression: Extensive thrombus around the mechanical mitral prosthesis
   causing severe mitral stenosis. Severe aortic stenosis. Thrombus in the
   left atrial appendage.
   CXR: worsening infilterates involving midzones of both lungs suggests
   superimposed
   multifocal pneumonia or unusual pattern of progression of heart
   failure. The
   remainder of the study including the lines and tubes are unchanged.
Sputum: GRAM STAIN (Final [**2114-11-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   Assessment and Plan
   66 y/o F s/p CVA with hemorrhagic evolution ([**9-26**]) with AV and MV
   valves transferred from OSH with MV thrombosis and GI bleed
   .
   # Prosthetic Mitral Valve Thrombus:  Echocardiogram consistent with
   thrombus on prosthetic MV valve and fluroscopy shows one leaflet that
   is fixed.  Patient has TTE during admission at [**Hospital1 1817**] three weeks ago
   that was negative for valvular thrombus.  TTE shows gradient pressures
   of Mitral 28/(mean)18 and Aortic 45/(mean)23.  Given the patient had
   recently had a hemorrhagic stroke and recent GI bleed, the management
   will be difficult.  Patient had resumed coumadin on transfer to
   rehabilitation to prevent further clots.  Patient would likely be a
   poor surgical candidate.  This issue represents an end-stage disease
   and this is understood by family.
   - Will continue Heparin gtt
   - Palliative care consult
   - Goal to get home with family, respiratory support and pain control
   .
   # Acute Congestive Heart Failure:  Secondary to Mitral valve thrombus
   and atrial fibrillation.  Patient has high gradient between LA and LV,
   also not filling well secondary to functional stenosis secondary to
   thrombus.   Good response to low-dose IV metoprolol.
   - PO metoprolol 25 mg TID.
   - Bumex 1 mg [**Hospital1 **], which is
 home dose with goal of even
   .
   # GI bleed:  Unclear source, likely lower GI.  HCT dropped from 29 to
   25 this AM and was subsequently transfused.  Hct responded
   appropriately but then came back down.
   - GI recs for endoscopy
   - Transfusion for symptomatic anemia
   .
   # Atrial Fibrillation:  Poorly rate controlled.  Dig level 1.1, likely
   toxic level in this patient in light of her EKG changes.
   - Will start BB
   - Heparin gtt for further thrombus progression
   .
   # CORONARIES:  h/o CAD documented in OSH records, however patient had
   cath in [**2109**] that showed normal coronaries. Pt had STD on EKG possibly
   in setting of GI Bleed/demand or related to digoxin toxicity.
   .
   # PUMP:  Previous TTE at [**Hospital1 1817**] 3 wks ago showed EF of 50% with no
   thrombus, with presence of dilated left atrium.
   - TEE today
   .
   # RLL Pneumonia:  Possible cause of her elevated WBC of 25 this AM.
   Lactate 1.3.  WBC at OSH was elevated.  Afebrile.  Not apparent that
   BCx obtained at OSH.  In context of thrombus, differential includes
   infected thrombus for leukocytosis.  C. diff negatibe
   - BCx and UCx pending
   - Continue Vanco and Meropenem
   - D/C flagyl
   .
   # HTN:  BP 108/43.  SBPs on admission in 80s.
   - Start BB.
   .
   # Hypothyroidism:  Continue home synthroid.
   .
   # s/p hemorrhagic stroke:  Patient with neurological deficits on exam.
   Patient at risk for further embolic event with thrombus.
   .
   FEN: Low salt, thickened liquids, advance to full
   ACCESS: 18 gauge PIV and R IJ
   PROPHYLAXIS:
   -DVT ppx with Hep gtt, IV PPI
   CODE: Full Code.  Will need to be readdressed with family.
   DISPO: CCU for now
   . IV access: Temporary central access (ICU) Location: Right Internal
   Jugular, Date inserted: [**2114-11-3**] Order date: [**11-3**] @ 0903
   16. Lidocaine Viscous 2% 20 ml PO ONCE Duration: 1 Doses Order date:
   [**11-3**] @ 1139
   2. Acetaminophen 650 mg PO ONCE Duration: 1 Doses Order date: [**11-3**] @
   0903
   17. Metoprolol Tartrate 5 mg IV ONCE Duration: 1 Doses Order date:
   [**11-3**] @ 0903
   3. Acetaminophen 650 mg PO ONCE Duration: 1 Doses Order date: [**11-3**] @
   2106
   18. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   Start [**11-3**]  Order date: [**11-3**] @ 0914
   4. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN  Order date: [**11-3**] @ 1542
   19. Meropenem 500 mg IV Q6H Duration: 48 Hours Order date: [**11-3**] @ 1846
   5. BuPROPion (Sustained Release) 150 mg PO QAM  Order date: [**11-2**] @
   2053
   20. Metoprolol Tartrate 5 mg IV ONCE Duration: 1 Doses Order date:
   [**11-3**] @ [**2032**]
   6. Bumetanide 1 mg IV ONCE Duration: 1 Doses Order date: [**11-3**] @ 2244
   21. Midazolam 1 mg IV PRN  Order date: [**11-3**] @ 1139
   7. Fentanyl Citrate 25-100 mcg IV PRN  Order date: [**11-3**] @ 1138
   22. Ondansetron 4 mg IV ONCE Duration: 1 Doses Order date: [**11-3**] @ 0800
   8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH [**Hospital1 **]  Order date:
   [**11-2**] @ [**2015**]
   23. Paroxetine 30 mg PO DAILY  Order date: [**11-2**] @ 2053
   9. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**11-3**] @ 0903
   24. Pantoprazole 40 mg IV Q12H  Order date: [**11-3**] @ 1300
   10. Gabapentin 300 mg PO TID  Order date: [**11-2**] @ 2053
   25. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**11-2**] @
   [**2010**]
   11. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**11-2**] @ [**2008**]
   26. Potassium Chloride 40 mEq / 100 ml SW IV ONCE Duration: 1 Doses
   Order date: [**11-3**] @ 1543
   12. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-2**] @ [**2010**]
   27. Simvastatin 40 mg PO DAILY  Order date: [**11-2**] @ 2053
   13. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**11-2**] @ [**2014**]
   28. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**11-3**] @ 0903
   14. Ipratropium Bromide Neb 1 NEB IH Q6H PRN  Order date: [**11-3**] @ 1542
   29. Vancomycin 1000 mg IV Q 12H
   ID Approval will be required for this order in 51 hours.  Order date:
   [**11-3**] @ 0445
   15. Levothyroxine Sodium 25 mcg PO DAILY  Order date: [**11-2**] @ [**2010**]

2114-11-05 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   66 y/o F s/p CVA with hemorrhagic evolution ([**9-26**]) with AV and MV
   valves transferred from OSH with MV thrombosis and GI bleed
   24 Hour Events:
   Heparin d/c
ed.  Patient made DNR/DNI, family considering CMO if
   patient worsens.
   Allergies:
   Lasix (Oral) (Furosemide)
   Hives;
   Codeine
   Rash;
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Voltaren (Oral) (Diclofenac Sodium)
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2114-11-4**] 01:59 AM
   Vancomycin - [**2114-11-5**] 12:00 AM
   Meropenem - [**2114-11-5**] 02:00 AM
   I
   Other ICU medications:
   Morphine Sulfate - [**2114-11-4**] 04:29 PM
   Other medications:
   SSI
   Simvastatin 40mg
   Buproprion 150mg
   Paroxetene 30mg
   Gabapentin 300mg TID
   Fluticasone/Salmertol discus
   Levothyroxine 25mcg
   Vancomycin 1g q12hrs
   Pantoprazole 40mg q12hrs
   Meropenem IV q6hrs x 48hts
   Digoxin 0.125mg daily
   Bumetanide 1mg [**Hospital1 **]
   Lopressor 25mg TID
   Clonazepam 0.5mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-11-5**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 88 (80 - 109) bpm
   BP: 86/49(55) {79/36(48) - 106/63(72)} mmHg
   RR: 23 (23 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 83.9 kg (admission): 85.6 kg
    CVP: 9 (-5 - 222)mmHg
   Total In:
                                                                  2,702 mL
                                                                    436 mL
   PO:
                                                                    950 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,452 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    220 mL
   Urine:
                                                                  1,860 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    842 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 740 (740 - 740) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 15.3 L/min
   Physical Examination
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD
   CARDIAC: RRR, with loud S2, crescendo-decrescendo murmur at LUSB
   LUNGS: Diffuse rales in posterior lung fields, obscured by BiPAP
   ABDOMEN: Soft, RLQ TTP.  Voluntary guarding.  No rebound.
   EXTREMITIES: No c/c/e. No femoral bruits.
   Neuro:  Moves all 4 with commands.  [**1-23**] handgrip on R, 0/5 on L.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   220 K/uL
   7.9 g/dL
   131 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   19 mg/dL
   107 mEq/L
   136 mEq/L
   23.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2114-11-2**]  05:00 PM
                            [**2114-11-2**]  09:28 PM
                            [**2114-11-3**]  03:10 AM
                            [**2114-11-3**]  03:22 PM
                            [**2114-11-3**]  06:17 PM
                            [**2114-11-4**]  05:23 AM
                            [**2114-11-4**]  11:52 AM
                            [**2114-11-5**]  05:32 AM
   WBC
   20.8
   25.0
   21.3
   14.1
   Hct
   29.3
   25.9
   32
   26.7
   24.8
   23.3
   Plt
   [**Telephone/Fax (3) 6523**]20
   Cr
   1.0
   1.0
   1.2
   1.2
   TropT
   0.05
   TCO2
   24
   Glucose
   130
   155
   133
   131
   Other labs: PT / PTT / INR:14.9/41.1/1.3, CK / CKMB /
   Troponin-T:58//0.05, ALT / AST:33/62, Alk Phos / T Bili:99/0.4, Amylase
   / Lipase:49/53, Differential-Neuts:86.5 %, Lymph:7.7 %, Mono:4.6 %,
   Eos:0.9 %, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:462 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   66 y/o F s/p CVA with hemorrhagic evolution ([**9-26**]) with AV and MV
   valves transferred from OSH with MV thrombosis and GI bleed
   # Prosthetic Mitral Valve Thrombus:  Echocardiogram consistent with
   thrombus on prosthetic MV valve and fluroscopy shows one leaflet that
   is fixed.  Patient has TTE during admission at [**Hospital1 1817**] three weeks ago
   that was negative for valvular thrombus.  TTE shows gradient pressures
   of Mitral 28/(mean)18 and Aortic 45/(mean)23.  Given the patient had
   recently had a hemorrhagic stroke and recent GI bleed, the management
   will be difficult.  Patient had resumed coumadin on transfer to
   rehabilitation to prevent further clots.  Patient would likely be a
   poor surgical candidate.  This issue represents an end-stage disease
   and this is understood by family.
   - Will continue Heparin gtt
   - Palliative care consult
   - Goal to get home with family, respiratory support and pain control
   # Acute Congestive Heart Failure:  Secondary to Mitral valve thrombus
   and atrial fibrillation.  Patient has high gradient between LA and LV,
   also not filling well secondary to functional stenosis secondary to
   thrombus.   Good response to low-dose IV metoprolol.
   - PO metoprolol 25 mg TID.
   - Bumex 1 mg [**Hospital1 **], which is
 home dose with goal of even
   # GI bleed:  Unclear source, likely lower GI.  HCT dropped from 29 to
   25 this AM and was subsequently transfused.  Hct responded
   appropriately but then came back down.
   - GI recs for endoscopy
   - Transfusion for symptomatic anemia
   # Atrial Fibrillation:  Poorly rate controlled.  Dig level 1.1, likely
   toxic level in this patient in light of her EKG changes.
   - Will start BB
   - Heparin gtt for further thrombus progression
   .
   # CORONARIES:  h/o CAD documented in OSH records, however patient had
   cath in [**2109**] that showed normal coronaries. Pt had STD on EKG possibly
   in setting of GI Bleed/demand or related to digoxin toxicity.
   # PUMP:  Previous TTE at [**Hospital1 1817**] 3 wks ago showed EF of 50% with no
   thrombus, with presence of dilated left atrium.
   - TEE today
   # RLL Pneumonia:  Possible cause of her elevated WBC of 25 this AM.
   Lactate 1.3.  WBC at OSH was elevated.  Afebrile.  Not apparent that
   BCx obtained at OSH.  In context of thrombus, differential includes
   infected thrombus for leukocytosis.  C. diff negatibe
   - BCx and UCx pending
   - Continue Vanco and Meropenem
   - D/C flagyl
   # HTN:  BP 108/43.  SBPs on admission in 80s.
   - Start BB.
   # Hypothyroidism:  Continue home synthroid.
   # s/p hemorrhagic stroke:  Patient with neurological deficits on exam.
   Patient at risk for further embolic event with thrombus.
   FEN: Low salt, thickened liquids, advance to full
   ACCESS: 18 gauge PIV and R IJ
   PROPHYLAXIS:
   -DVT ppx with Hep gtt, IV PPI
   CODE: DNR/DNI
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2114-11-3**] 06:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: